US08067445B2
Step 1: [4-Methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetonitrile
Prepared according to the procedure described in Example 33, Step 2, using the following starting materials: 3-bromo-4-methoxyphenylacetonitrile and bis(pinacolato)diboron.

reactant | 3-bromo-4-methoxyphenylacetonitrile | BrC=1C=C(C=CC1OC)CC#N | C9H8BrNO
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | [4-Methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetonitrile | COC1=C(C=C(C=C1)CC#N)B1OC(C(O1)(C)C)(C)C | C15H20BNO3
